US07538114B2
To a solution of crude (2R)-1-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazine (3.15 g, 105.6 mmol) in 25 mL of MeCN was added tert-butyl bromoacetate (2.046 ml, 12.67 mmol), followed by slow addition of triethylamine (2.203 ml, 15.837 mmol). The reaction mixture was stirred at rt overnight. The solution was evaporated to dryness and the residue was submitted to flash chromatography (SiO2, hexane to hexane/EtOAc=100:5 to 100:10 to 100:30) to give tert-butyl 2-((R)-4-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazin-1-yl)acetate as a colorless oil.

reactant | (2R)-1-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazine | 105.6 mmol, 3.15 g | C1(CC1)C(N1[C@@H](CNCC1)C)C1=CC(=CC=C1)C(F)(F)F | C16H21F3N2
reactant | tert-butyl bromoacetate | 12.67 mmol, 2.046 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | triethylamine | 15.837 mmol, 2.203 ml | C(C)N(CC)CC | C6H15N
solvent | MeCN | 25 mL | CC#N | C2H3N
product | tert-butyl 2-((R)-4-(cyclopropyl(3-(trifluoromethyl)phenyl)methyl)-2-methylpiperazin-1-yl)acetate | C1(CC1)C(N1C[C@H](N(CC1)CC(=O)OC(C)(C)C)C)C1=CC(=CC=C1)C(F)(F)F | C22H31F3N2O2
